US04284631
Ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer 40 g.), ethoxyethyl bromide (41.1 g.), potassium carbonate (54.1 g.), N,N-dimethylformamide (65 ml.) and ethylacetate (65 ml.) were treated in a similar manner to that of Example A-(1) to give ethyl 2-(2-ethoxyethoxyimino)-3-oxobutyrate (syn isomer, 56.8 g.).

reactant | Ethyl 2-hydroxyimino-3-oxobutyrate | 40 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | ethoxyethyl bromide | 41.1 g | C(C)OCCBr | C4H9BrO
reactant | potassium carbonate | 54.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | 65 ml | C(C)OC(C)=O | C4H8O2
product | ethyl 2-(2-ethoxyethoxyimino)-3-oxobutyrate | 56.8 g | C(C)OCCON=C(C(=O)OCC)C(C)=O | C10H17NO5
